US07973050B2
Preparation of 4(R)-Azido-6,8-dibromo-chroman
A solution containing 6,8-dibromo-chroman-4(S)-ol in tetrahydrofuran (0.17M) and 1.2 equivalents of diphenylphosphorylazide was stirred for 15 minutes at room temperature. The solution was cooled to 10° C. and 2.5 equivalents of 1,8-diazabicyclo[5.4.0]undec-7-ene added. The mixture was stirred with gradual warming to room temperature and maintained for 48 h. The mixture was diluted with ethylacetate and washed with brine followed by water. The organic phase was concentrated to afford the title compound as a tan oil.

reactant | 6,8-dibromo-chroman-4(S)-ol | BrC=1C=C2[C@H](CCOC2=C(C1)Br)O | C9H8Br2O2
reactant | diphenylphosphorylazide | 1.2 equivalents | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 2.5 equivalents | N12CCCCCC2=NCCC1 | C9H16N2
solvent | tetrahydrofuran | 0.17M | O1CCCC1 | C4H8O
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | 4(R)-Azido-6,8-dibromo-chroman | N(=[N+]=[N-])[C@@H]1CCOC2=C(C=C(C=C12)Br)Br | C9H7Br2N3O
